US06825181B1
Step 2: Synthesis of methyl 4-iodo-3-methoxybenzoate:
14.9 g (56.4 mmol) of 3-hydroxy-4-iodobenzoic acid was dissolved in 200 ml of DMF. 17.5 ml (282 mmol) of methyl iodide and 39 g (282 mmol) of potassium carbonate was added to the obtained solution, and they were stirred at 50° C. for 3 hours. After the treatment with ethyl acetate as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | 3-hydroxy-4-iodobenzoic acid | 56.4 mmol, 14.9 g | OC=1C=C(C(=O)O)C=CC1I | C7H5IO3
reactant | methyl iodide | 282 mmol, 17.5 ml | CI | CH3I
reactant | potassium carbonate | 282 mmol, 39 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | methyl 4-iodo-3-methoxybenzoate | IC1=C(C=C(C(=O)OC)C=C1)OC | C9H9IO3
